US04600780
To a solution of 4.88 g of 2-[[(5-methyl-1H-imidazol-4-yl)methyl]thio]ethanamine (prepared according to British Pat. No. 1,338,169 which is hereby incorporated by reference,) in 75 ml of absolute ethanol, are added 5.55 ml of triethylamine. Then 1.96 g of ethyl N-cyano-formimidate in 15 ml of ethanol are added dropwise under stirring and at room temperature (prepared according to Huffman and Schaefer "J.Org.Chem.",28, 1816, 1963). Stirring is continued for 1 hour, after which are added 2.5 ml of 8N HCl/ethanol. A white solid is separated, which is subsequently crystallized in ethanol, filtered off and dried in a vacuum dessicator in the presence of phosphorus pentoxide and sodium hydroxide. 2.9 g of N-cyano-N'-[2-[[(5-methyl-1H-imidazol-4-yl)methyl]thio]ethyl]formamidine are obtained.

reactant | 2-[[(5-methyl-1H-imidazol-4-yl)methyl]thio]ethanamine | 4.88 g | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | triethylamine | 5.55 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl N-cyano-formimidate | 1.96 g | C(#N)N=COCC | C4H6N2O
reactant | HCl ethanol | 8N, 2.5 ml | Cl.C(C)O
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-cyano-N'-[2-[[(5-methyl-1H-imidazol-4-yl)methyl]thio]ethyl]formamidine | 2.9 g | C(#N)NC=NCCSCC=1N=CNC1C | C9H13N5S
